US04367238
A mixture of 2-methoxy-5-(2-chlorophenoxy)benzyl alcohol (8 g), thionyl chloride (4.4 ml) and pyridine (3 drops) in dried benzene (60 ml) was treated in a similar manner to that of Example 3-(6) to give oily 2-chlorophenyl 3-chloromethyl-4-methoxyphenyl ether (8.5 g).

reactant | 2-methoxy-5-(2-chlorophenoxy)benzyl alcohol | 8 g | COC1=C(CO)C=C(C=C1)OC1=C(C=CC=C1)Cl | C14H13ClO3
reactant | thionyl chloride | 4.4 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-chlorophenyl 3-chloromethyl-4-methoxyphenyl ether | 8.5 g | ClCC=1C=C(C=CC1OC)OC1=C(C=CC=C1)Cl | C14H12Cl2O2
